US06680282B2
800 Milligrams of the resultant 4-benzyloxy-6-s-butyl-8-formyl-2,3-dimethylquinoline was dissolved in 2.5 ml of 20% sulfuric acid and stirred at 100° C. for 1 hour. After cooling to room temperature, the reaction mixture was neutralized with an aqueous saturated sodium hydrogencarbonate solution to produce precipitates, which were washed with water and n-hexane and then dried under reduced pressure to obtain 490 mg of 4-hydroxy-6-s-butyl-8-formyl-2,3-dimethylquinoline. 440 Milligrams of 4-hydroxy-6-s-butyl-8-formyl-2,3-dimethylquinoline was suspended in a mixture of 3 ml of acetic anhydride and 0.5 ml of pyridine and the mixture was stirred at 120° C. for 1.5 hours. The reaction mixture was cooled to room temperature, neutralized with an aqueous saturated sodium hydrogencarbonate solution and extracted with ethyl acetate. The resultant organic layer was washed with a saturated brine and dried over anhydrous sodium sulfate. After the solvent was evaporated, the resultant crude product was purified by column chromatography on silica gel (WAKOGEL® C-200) eluting with n-hexane/ethyl acetate (10:1) to obtain 220 mg of 4-acetoxy-6-s-butyl-8-formyl-2,3-dimethylquinoline (yield 13%). Its NMR spectral data are shown in the following Table 2.

reactant | 4-benzyloxy-6-s-butyl-8-formyl-2,3-dimethylquinoline | C(C1=CC=CC=C1)OC1=C(C(=NC2=C(C=C(C=C12)C(C)CC)C=O)C)C | C23H25NO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | sulfuric acid | 2.5 ml | S(O)(O)(=O)=O | H2O4S
product | 4-hydroxy-6-s-butyl-8-formyl-2,3-dimethylquinoline | 490 mg | OC1=C(C(=NC2=C(C=C(C=C12)C(C)CC)C=O)C)C | C16H19NO2
